Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:3],4.96902433013
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],3.86622274236
[H:1][C:2]=[C:3]([O:4][O:5])[C:7]([H:8])([H:9])[H:10].[H:6]>>[H:1][C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.76766524428
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[C:1]#[C:2].[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9],7.82403265757
[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-4.77653460416
[C:6][H:7].[O:1][O:2][C:3]([H:4])[H:5]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],-4.19451073
[C:1]#[C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1][C:2][O:3].[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.28612730641
[C:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3](=[C:4])[O:10][H:11]>>[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11],-7.70420887367
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10].[O:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12],-3.09440396583
[H:8].[O:1]=[C:2]([H:3])[C:4][C:5]#[C:6][O:7]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6][O:7][H:8],-1.61243803475
[C:3][C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]=[C:8]([H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-3.78024323762
[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-3.4476904322000004
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:8],4.85923628451
[O:1][O:2][C:3]([C:4]([H:5])=[C:6][H:7])=[C:8]([H:9])[H:10]>>[C:4]([H:5])#[C:6][H:7].[O:1][O:2][C:3][C:8]([H:9])[H:10],1.5295981544
[H:18].[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.38020209136
[C:1][C:2]#[C:3][C:5]([H:6])([H:7])[H:8].[O:4]>>[C:1]#[C:2][C:3](=[O:4])[C:5]([H:6])([H:7])[H:8],-5.10085474057
[H:7].[O:1]=[C:2]([C:3][C:4]#[C:5][H:6])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3]#[C:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.78756235497
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:6]([H:7])([H:8])=[C:9]=[C:10]([H:11])[H:12].[H:1][O:2][C:3]#[C:4][H:5],-0.8549334369499999
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][H:9]>>[C:1]#[C:2].[C:3]([H:4])=[C:5]([H:6])[O:7][C:8][H:9],6.1632971579900016
[H:1][O:2][C:3]1=[C:4]([H:5])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]1([H:13])[H:14].[H:6]>>[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]1([H:13])[H:14],-1.97540559618
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])[O:6][H:7]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.23830564496
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:12]([H:13])[H:14],1.84419854624
[C:1]#[C:2][H:3]>>[C:1].[C:2][H:3],8.886088325689999
[H:1][C:2][O:3][C:4](=[C:5][H:6])[C:7]([H:8])=[C:9][H:10]>>[C:5]([H:6])#[C:9][H:10].[H:1][C:2][O:3][C:4]#[C:7][H:8],-0.427497951841
[O:1][C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],0.852410460907
[H:6].[O:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-5.18785517299
[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[O:8][H:9]>>[C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[O:8][H:9].[H:1],5.6667189278900025
[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.88850178851
[C:1]#[C:2][C:3]([O:4][O:5])[C:6]([H:7])([H:8])[H:9]>>[C:1].[C:2]=[C:3]([O:4][O:5])[C:6]([H:7])([H:8])[H:9],7.18773652531
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],2.92411856
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[O:15][H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[O:15][H:16].[H:7],4.34765641677
